US06407086B2
3β-tert-Butyldimethylsilyloxy-4,4-dimethylchol-5-en-24-oic acid methyl ester (9.75 g) is dissolved in a warm mixture of 122 ml of benzene and 475 ml of n-hexane, 1,3-dibromo-5,5-dimethylhydantoin (3.95 g) is added and the mixture is refluxed for 15 minutes. After cooling (fast) and evaporating to dryness under reduced pressure, 475 ml of o-xylene and 21.7 ml of quinaldine is added and the mixture is refluxed for 1 hour. After aqueous work-up and trituration with methanol 3β-tert-butyldimethylsilyloxy-4,4-dimethylchola-5,7-dien-24-oic acid methyl ester (8.22 g) is isolated. Melting point: 116-124° C. 1H-NMR (CDCl3, 300 MHz): δ=5.88 (1H, m); 5.52 (1H, m); 3.65 (3H, s); 3.32 (1H, m); 0.89 (9H, s); 0.04 (6H, m).

reactant | 3β-tert-Butyldimethylsilyloxy-4,4-dimethylchol-5-en-24-oic acid methyl ester | 9.75 g | COC(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C([C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O[Si](C)(C)C(C)(C)C)(C)C)=O | C33H58O3Si
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 3.95 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
solvent | benzene | 122 ml | C1=CC=CC=C1 | C6H6
solvent | n-hexane | 475 ml | CCCCCC | C6H14
product | methanol 3β-tert-butyldimethylsilyloxy-4,4-dimethylchola-5,7-dien-24-oic acid methyl ester | 8.22 g | COC(CC[C@@H](C)[C@H]1CC[C@H]2C3=CC=C4C([C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O[Si](C)(C)C(C)(C)C)(C)C)=O.CO | InChI=1S/C33H56O3Si.CH4O/c1-22(12-17-29(34)35-9)24-14-15-25-23-13-16-27-31(5,6)28(36-37(10,11)30(2,3)4)19-21-33(27,8)26(23)18-20-32(24,25)7;1-2/h13,16,22,24-26,28H,12,14-15,17-21H2,1-11H3;2H,1H3/t22-,24-,25+,26+,28+,32-,33-;/m1./s1
